US08193202B2
A. Preparation of 1-tert-butyl 4-ethyl 4-((1-trityl-1H-imidazol-4-yl)methyl)piperidine-1,4-dicarboxylate.
To a solution of 1-tert-butyl 4-ethyl piperidine-1,4-dicarboxylate (360 mg, 1.39 mmol) in anhydrous THF (10 mL) at −78° C. was added LDA (1.7 M in THF, 1.07 mL, 1.8 mmol) dropwise over 10 min. The reaction mixture was stirred at −78° C. for 1 hour, and 4-(chloromethyl)-1-trityl-1H-imidazole (500 mg, 13.9 mmol) in THF (5 mL) was added slowly. The reaction mixture was allowed to warm to room temperature over 1 hour, quenched with sat. aq. NH4Cl (10 mL), and extracted with EtOAc (3×20 mL). The combined organic extracts were washed with brine, dried over Na2SO4, filtered, and concentrated under vacuum. Purification by silica gel chromatography (10-50% EtOAc:Hexanes) afforded the title compound (403 mg, 51%). MS (ES+) [M+H]+=580.3.

reactant | 1-tert-butyl 4-ethyl piperidine-1,4-dicarboxylate | 1.39 mmol, 360 mg | N1(CCC(CC1)C(=O)OCC)C(=O)OC(C)(C)C | C13H23NO4
reactant | LDA | 1.8 mmol, 1.7 M, 1.07 mL | [Li+].CC(C)[N-]C(C)C
reactant | 4-(chloromethyl)-1-trityl-1H-imidazole | 13.9 mmol, 500 mg | ClCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19ClN2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-tert-butyl 4-ethyl 4-((1-trityl-1H-imidazol-4-yl)methyl)piperidine-1,4-dicarboxylate | 403 mg, 51% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C36H41N3O4
